2201-03-06 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Uneventfull night, no new complaints. unclear if pharmacy can obtain
   the amount of abatacept necessary
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2201-3-5**] 11:27 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-3-6**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 88 (87 - 88) bpm
   BP: 132/72(86) {132/72(86) - 176/97(118)} mmHg
   RR: 18 (15 - 18) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
                  Total In:
                                                                    300 mL
                  PO:
                                                                    300 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    300 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: none
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   37M with psoriatic arthritis, IBD, HTN, DM2 and prior anaphylactoid
   reaction to abatacept presents electively for monitored abatacept
   administration.
   #. Abatacept reaction: Had anaphylactoid reaction in the past. Already
   started premedicating with higher-dose prednisone. Plan as follows:
   1. Abatacept 1000 mg Infuse over 90 minuts
   2. The day before and the day after the infusion, 80 mg of prednisone
   per day
   3.  100 mg methylprednisolone prior to the abatacept infusion
   4.  Diphenhydramine 50 mg q 4 hours and famotidine 20 mg q 12 hours.
   First dose of both one hour before the infusion, and continue for 24
   hour
   5.  Maintain in the hospital for observation for 24 hours.
   6.  Dr. [**Last Name (STitle) 5664**] ([**Numeric Identifier 5665**]) should be called if necessary.
   #. Psoriatic arthritis: Receiving steroids and abatacept
   #. IBD: Currently inactive, on flagyl ppx
   #. DM2: Hold PO hypoglycemics
   - start ISS
   #. HTN: hold antihypertensives in case of anaphylaxis
   #. FEN/GI: Diabetic diet overnight, NPO after MN
   #. Prophylaxis: no indication
   #. Code status: FULL
   #. Disposition: Pending
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-3-5**] 10:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-03-07 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2201-3-6**]:
   - Abatacept started at 3pm, no initial reaction
   - Hands started swelling at 5:30pm, somewhat resolved with IV benadryl
   - Pt reported chest tightness, feeling like a rubber band around his
   jaw and mild dyspnea.  Gave the patient atrovent neb treatment and
   symptoms resolved.  No further symptoms overnight
   - this am has no symptoms, arms and hands feel back to normal and per
   patient look like normal and he has had no further chest tightness.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2201-3-5**] 11:27 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2201-3-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-3-7**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 74 (66 - 105) bpm
   BP: 113/55(69) {106/41(59) - 149/91(98)} mmHg
   RR: 17 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                    441 mL
                                                                     50 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    201 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    441 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General - Resting comfortably in bed, no acute distress
   HEENT - Sclera anicteric, MMM, oropharynx clear
   Neck - Supple, JVP not elevated, no LAD
   Pulm - CTA bilaterally; no wheezes, rales, or rhonchi
   CV - RRR, normal S1/S2; no murmurs, rubs, or gallops
   Abdomen - Normoactive bowel sounds; soft, non-tender, non-distended
   Ext - Warm, well perfused, radial and DP pulses 2+; no clubbing,
   cyanosis or edema
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   37M with psoriatic arthritis, IBD, HTN, DM2 and prior anaphylactoid
   reaction to abatacept presents electively for monitored abatacept
   administration.
   #. Abatacept reaction: Had anaphylactoid reaction in the past.
   Premedicated with famotidine, benadryl and solumedrol.  Pt was started
   on higher dose prednisone.  Received abatacept yesterday at 3pm.  Had
   mild allergic reaction type symptoms however no obvious signs of
   anaphylaxis
   -          Monitor for 24 hours after initial infusion
   -          Continue higher dose prednisone
   -          Continue famotidine and benadryl for 24 hours post infusion
   -          Discuss with allergy/attending whether he can still d/c home
   this afternoon or whether, given the hand swelling, he will need to
   stay another day for further monitoring.
   #. Psoriatic arthritis: Receiving steroids and abatacept
   #. IBD: Currently inactive, on flagyl ppx
   #. DM2: Hold PO hypoglycemics
   - start ISS
   #. HTN: hold antihypertensives in case of anaphylaxis
   ICU Care
   Nutrition:  Can make heart healthy diet as tolerated overnight
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-3-6**] 03:17 PM
   Prophylaxis:
   DVT:  ambulatory
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Discharge later today to home or medicine service
   depending on attending recs re : monitoring.
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   His right hand continues to swell. There is no swelling elsewhere
   including oropharynx and airway. He denies respiratory symptoms and his
   lungs are clear. He will be continued on prednisone, benadryl, H2
   blocker, singulair. He will be observed overnight in the hospital.
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2201-3-7**] 14:22 ------